US05296452
29.2 g (0.15 mol) of 4-chloro-(1,3-dioxolan-2-yl)-aniline and 24.9 g (0.15 mol) of 4(R,S)-methylcyclohexene-1,2-dicarboxylic anhydride were stirred in 250 ml of glacial acetic acid for 3 days at 230° C. and for 10 hours at 70° C.; water was added to induce precipitation, followed by recrystallization and drying. There was obtained 38 g (83%) of N-(4-chloro-3-formylphenyl)-4(R,S)-methyl-3,4,5,6-tetrahydrophthalimide (m.p. 132°-1330° C.).

reactant | 4-chloro-(1,3-dioxolan-2-yl)-aniline | 0.15 mol, 29.2 g | ClC1=CC=C(NC2OCCO2)C=C1 | C9H10ClNO2
reactant | 4(R,S)-methylcyclohexene-1,2-dicarboxylic anhydride | 0.15 mol, 24.9 g | CC1CC2=C(CC1)C(=O)OC2=O | C9H10O3
reactant | water | O | H2O
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | N-(4-chloro-3-formylphenyl)-4(R,S)-methyl-3,4,5,6-tetrahydrophthalimide | 38 g, 83% | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CC(CC2)C)=O)C=O | C16H14ClNO3
